US07005432B2
5-(3,4-Dichloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=319.2 (M+), was prepared from 3,4-dichlorophenylboronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 3,4-dichlorophenylboronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3,4-Dichloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C15H12Cl2N4.ClH/c1-10-18-4-5-21(10)9-13-6-12(8-19-20-13)11-2-3-14(16)15(17)7-11;/h2-8H,9H2,1H3;1H
